US07319099B2
Preparation of rac-{4-[2-Fluoro-4-(1-hydroxy-ethyl)-phenyl]-piperazin-1-yl}-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone
0.086 mmol of 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone was dissolved in 1 ml ethanol and 0.26 mmol sodium borohydride was added The mixture was refluxed for 40 min., cooled to room temperature, quenched with water, acidified with HCl 1N and extracted with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was purified on silica eluting with heptane/ethylacetate to yield after evaporation the title compound. MS (m/e): 465.4 (M+H+, 100%)

reactant | 1-{3-Fluoro-4-[4-(2-isopropoxy-5-methanesulfonyl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | 0.086 mmol | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C)=O)C(C)=O | C23H27FN2O5S
reactant | sodium borohydride | 0.26 mmol | [BH4-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | rac-{4-[2-Fluoro-4-(1-hydroxy-ethyl)-phenyl]-piperazin-1-yl}-(2-isopropoxy-5-methanesulfonyl-phenyl)-methanone | FC1=C(C=CC(=C1)C(C)O)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)OC(C)C | C23H29FN2O5S
